US07572817B2
To a solution of 3-iodo-1,1′-biphenyl (0.964 g, 3.44 mmol) and tetrabutylammonium chloride (0.956 g, 3.44 mmol) in dry DMF (3 mL) was added alkyl alcohol (0.351 mL, 5.16 mmol), sodium hydrogencarbonate (0.723 g, 8.60 mmol), and palladium(II) acetate (31 mg, 0.14 mmol), and the mixture was stirred at room temperature for 18 h. The reaction mixture was then diluted with EtOAc and the solid material filtered off (Celite). The filtrate was washed with water three times, dried (Na2SO4) and concentrated. Flash chromatography (heptan/tert-butyl methyl ether, 4:1) of the residue gave 3-(1,1′-biphenyl-3-yl)propanal (0.601 g, 83%).

reactant | 3-iodo-1,1′-biphenyl | 3.44 mmol, 0.964 g | IC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9I
reactant | sodium hydrogencarbonate | 8.60 mmol, 0.723 g | C(O)([O-])=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrabutylammonium chloride | 3.44 mmol, 0.956 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.14 mmol, 31 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(1,1′-biphenyl-3-yl)propanal | 0.601 g, 83% | C1(=CC(=CC=C1)CCC=O)C1=CC=CC=C1 | C15H14O
